US06156905
A solution of 0.5 g (2.03 mmol) of 6-[(tert-butyldimethylsilyl)oxy]-hexanoic acid in 4 ml of benzene is mixed with 362 mg (3.04 mmol, 1.5 equivalents) of SOCl2 and heated under reflux for 2 hours. It is allowed to cool, and the solvent is distilled off in a rotary evaporator. To remove excess SOCl2 from the reaction mixture, the residue is mixed again with benzene and again distilled off. 494 mg (1.865 mmol, 92%) of the 6-[(tert-butyldimethylsilyl)oxy]-hexanoyl chloride is obtained. This crude product is further reacted without purification and characterization.

reactant | 6-[(tert-butyldimethylsilyl)oxy]-hexanoic acid | 2.03 mmol, 0.5 g | [Si](C)(C)(C(C)(C)C)OCCCCCC(=O)O | C12H26O3Si
reactant | SOCl2 | 3.04 mmol, 362 mg, 1.5 equivalents | O=S(Cl)Cl | Cl2OS
solvent | benzene | 4 ml | C1=CC=CC=C1 | C6H6
product | 6-[(tert-butyldimethylsilyl)oxy]-hexanoyl chloride | 1.865 mmol, 494 mg, 92% | [Si](C)(C)(C(C)(C)C)OCCCCCC(=O)Cl | C12H25ClO2Si
